US08349898B2
Preparation of 2-(1H-indol-3-yl)-N,N-dimethylethylamine (1):
To 250 mg of 3-(2-bromoethyl)indole in a round-bottomed flask, a 10 M excess of dimethylamine (6 mL of 2M in MeOH) was added and the solution was stirred at r.t. overnight. After adding 5 mL sodium bicarbonate (2%), the reaction mixture was extracted with chloroform (3×5 ml) and back extracted with H2O (1×5 mL). The combined extracts were dried over MgSO4 and evaporation of the solvent gave the product in crystalline form. Yield: 0.21 g, 84%, yellowish crystals. m.p.: 45-47° C.; TLC (EtAc:MeOH:acetic acid, 8:2:0.5 v/v/v): RF=0.33. 1H NMR, δ: 10.43 (s, 1H), 7.42-7.06 (m, 5H), 2.68 (m, 4H), 2.26 (S, 6H). 13C NMR (CDCl3): δ 136.5, 124.3, 123.2, 121.2, 119.7, 117.6, 113.4, 111.1, 61.7, 41.2, 22.4. Anal. calcd for C12H16N2: C, 76.55; H, 8.57; N, 14.88%. Found; C, 76.60; H, 8.70; N, 14.70%.

reactant | 3-(2-bromoethyl)indole | 250 mg | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | dimethylamine | 2M, 6 mL | CNC | C2H7N
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | MeOH | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(1H-indol-3-yl)-N,N-dimethylethylamine | N1C=C(C2=CC=CC=C12)CCN(C)C | C12H16N2
